US05319142
adding sodium nitrite and hydrochloric acid to a solution of 4-hydroxyacetophenone in water to form 4-hydroxyphenylglyoxal;

reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | 4-hydroxyacetophenone | CC(=O)C=1C=CC(=CC1)O | C8H8O2
solvent | water | O | H2O
product | 4-hydroxyphenylglyoxal | OC1=CC=C(C=C1)C(=O)C=O | C8H6O3
